US05994368
To a solution of N-(3-aminobenzoyl)methanesulfonamide (400 mg) in dioxane (4 ml) and 1N sodium hydroxide solution (3.73 ml) was added phenyl chloroformate (351 mg) under ice-cooling, and the mixture was stirred for 2.5 hours at ambient temperature. Water was added thereto, the mixture was adjusted pH 3 with hydrochloric acid. The mixture was extracted with chloroform-methanol, and the extract was dried over magnesium sulfate and concentrated in vacuo to give phenyl 3-(methanesulfonylaminocarbonyl)phenylcarbamate (600 mg) as colorless crystals.

reactant | N-(3-aminobenzoyl)methanesulfonamide | 400 mg | NC=1C=C(C(=O)NS(=O)(=O)C)C=CC1 | C8H10N2O3S
reactant | phenyl chloroformate | 351 mg | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | Water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | 1N, 3.73 ml | [OH-].[Na+]
product | phenyl 3-(methanesulfonylaminocarbonyl)phenylcarbamate | 600 mg | CS(=O)(=O)NC(=O)C=1C=C(C=CC1)NC(OC1=CC=CC=C1)=O | C15H14N2O5S
